US07897619B2
N-((S)-2-amino-3-phenylpropyl)-4-benzyl-3-(isoquinolin-6-yl)isoxazol-5-amine:
This compound was synthesized in an analogous manner to N-((S)-2-amino-3-(4-chlorophenyl)propyl)-3-(isoquinolin-6-yl)isoxazol-5-amine starting with commercial available 3-phenylpropionitrile (commercially available from Acros Organics Order Number 17399) instead of acetonitrile. MS m/z: 435 (M+1); 1H NMR (400 MHz, CD3OD) δ ppm 9.43 (br s, 1H), 8.50 (br s, 1H), 8.23 (d, J=8.6, 1H), 8.06 (s, 1H), 7.89 (d, J=9.0, 1H), 7.87 (d, J=9.8, 1H), 7.15-7.42 (m, 10H), 3.89 (s, 2H), 3.70 (m, 1H), 3.57-3.62 (m, 2H), 3.02 (d, J=7.04 Hz, 2H).

reactant | N-((S)-2-amino-3-(4-chlorophenyl)propyl)-3-(isoquinolin-6-yl)isoxazol-5-amine | N[C@H](CNC1=CC(=NO1)C=1C=C2C=CN=CC2=CC1)CC1=CC=C(C=C1)Cl | C21H19ClN4O
reactant | 3-phenylpropionitrile | C1(=CC=CC=C1)CCC#N | C9H9N
solvent | acetonitrile | C(C)#N | C2H3N
product | N-((S)-2-amino-3-phenylpropyl)-4-benzyl-3-(isoquinolin-6-yl)isoxazol-5-amine | N[C@H](CNC1=C(C(=NO1)C=1C=C2C=CN=CC2=CC1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H26N4O
